US07585868B2
Synthesis of 2-(4-(4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenyl)acetonitrile (BA45).
A solution of (4-Cyanomethylphenyl)boronic acid (18 mg, 0.11 mmol) in EtOH (3.3 mL) was added to a solution of 3-iodo-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine (30 mg, 0.10 mmol) in DME (12 mL). Pd(PPh3)4 (30 mg, 0.03 mmol) and saturated Na2CO3 (1.9 mL) were added and the reaction was heated to 80° C. under an argon atmosphere overnight. After cooling, the reaction was extracted with saturated NaCl and CH2Cl2. Organic phases were combined, concentrated in vacuo and purified by RP-HPLC (MeCN:H2O:0.1% TFA) to yield BA45. ESI-MS (M+H)+ m/z calcd 293.1, found 293.1.

reactant | (4-Cyanomethylphenyl)boronic acid | 0.11 mmol, 18 mg | C(#N)CC1=CC=C(C=C1)B(O)O | C8H8BNO2
reactant | 3-iodo-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.10 mmol, 30 mg | IC1=NN(C2=NC=NC(=C21)N)C(C)C | C8H10IN5
reactant | Na2CO3 | 1.9 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 3.3 mL | CCO | C2H6O
solvent | DME | 12 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.03 mmol, 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-(4-amino-1-isopropyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl)phenyl)acetonitrile | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)CC#N)C(C)C | C16H16N6
